US06087380
3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-hydroxycarbonylmethyl-amide-hydrochloride
Prepared analogously to Example 2 from 3-methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide-hydrochloride and sodium hydroxide solution. Yield: 85% of theory, C25H24N6O3 (456.51) Rf value: 0.19 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) EKA mass spectrum: (M+H)+ =457

reactant | 3-methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)CC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-hydroxycarbonylmethyl-amide-hydrochloride | Yield: 85% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)CC(=O)O | InChI=1S/C25H24N6O3.ClH/c1-30-21(12-9-16-7-10-17(11-8-16)23(26)27)29-20-13-18(14-28-24(20)30)25(34)31(15-22(32)33)19-5-3-2-4-6-19;/h2-8,10-11,13-14H,9,12,15H2,1H3,(H3,26,27)(H,32,33);1H
